US04927919
Synthesis of 2,2-dimethyl-4-oxo-tetrahydropyran-6-carboxylic acid
In 8 ml of tetrahydrofuran was dissolved 0.5 g of 3,4-dihydro-2,2-dimethyl-4-oxo-2H-pyran-6-carboxylic acid, followed by adding thereto 50 mg of 10% palladium-carbon, and the reaction was carried out with stirring in a hydrogen stream at room temperature for 3 hours.

reactant | 3,4-dihydro-2,2-dimethyl-4-oxo-2H-pyran-6-carboxylic acid | 0.5 g | CC1(OC(=CC(C1)=O)C(=O)O)C | C8H10O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | 2,2-dimethyl-4-oxo-tetrahydropyran-6-carboxylic acid | CC1(OC(CC(C1)=O)C(=O)O)C | C8H12O4
